Name:  ___                    Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: SURGERY
 
Allergies: 
___
 
Attending: ___.
 
Chief Complaint:
Back pain, rib pain
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
Ms ___ is a ___, ___ significant for vascular dementia with 
precipitous decline over the past several years, was transferred 
from ___ after sustaining a supposed fall on ___. The 
incident had occurred at ___ on the ___ 
___ where she was found down ___ night by the staff. She 
was then brought to ___ for work up by EMS. Since then,
she was complaining of left flank pain and abdominal pain. 
Workup at ___ was positive for T11 compression fracture 
and left ___ rib fracture with associated with a small 
hemothorax. Of note, no CT head was obtained at OSH because she 
has a known history of intracerebral hemorrhage and a discussion 
of HCP determined that any intervention would be declined. No 
further history can be elicited as the event was unwitnessed and 
the patient herself is a poor historian. Based on reports, there 
are no other pertinent positives. 
 
Past Medical History:
PAST MEDICAL HISTORY  
 afib  
 Peripheral vascular disease  
 Vascular dementia  
 h/o hemorrhagic stroke / ICH  
 Cataracts  
 Hyperlipidemia  
 PAST SURGICAL HISTORY  
 Femoral stent (right; endovascular)  
 Cataract surgery  
 Oophorectomy  

 
Social History:
___
Family History:
non-contributory
 
Physical Exam:
Admission Physical Exam:
VITAL SIGNS: 97.5 69 105/63 16 100% RA 
GENERAL: NAD. Awake alert. Not oriented to place or time. 
HEENT: NCAT, EOMI, PERRLA, No scleral icterus, mucosa moist, no
LAD
CARDIOVASCULAR: R/R/R, S1/S2, NO M/R/G
PULMONARY: CTA ___, No crackles or rhonchi
GASTROINTESTINAL: S/NT/ND. No guarding, rebound, or peritoneal
signs. +BSx4. TTP left flank. 
INCISION/WOUNDS: Chronic skin changes anterior ___ ___.
EXT/MS/SKIN: No C/C/E; Feet warm. Good perfusion.
NEUROLOGICAL: Reflexes, strength, and sensation grossly intact.
Weak; no baseline for comparison
CNII-XII: WNL

Discharge Physical Exam:
VS: 98.7, 86, 141/53, 18, 95% RA
Gen: Awake, alert, sitting up in chair with family at bedside.
HEENT: No deformity. PERRL, EOMI. Neck supple, trachea midline.
CV: Irregular, irregular.
Pulm: Clear to auscultation, diminished in the bases. Tender to 
palpation left chest.
Abd: Soft, non-tender, non-distended. Active bowel sounds x 4 
quadrant.
Ext: Warm, dry, no edema. 1+ ___ pulses. 
Neuro: Alert, oriented to self only. Follows commands. Moves all 
extremities. Speech is clear. 

 
Pertinent Results:
___ 04:35AM BLOOD WBC-7.6 RBC-3.95 Hgb-12.1 Hct-38.5 MCV-98 
MCH-30.6 MCHC-31.4* RDW-11.8 RDWSD-42.5 Plt ___
___ 06:12PM BLOOD WBC-6.9 RBC-3.88* Hgb-12.1 Hct-37.5 
MCV-97 MCH-31.2 MCHC-32.3 RDW-11.9 RDWSD-42.1 Plt ___
___ 04:40AM BLOOD Glucose-94 UreaN-15 Creat-0.8 Na-143 
K-4.7 Cl-106 HCO3-28 AnGap-14
___ 04:35AM BLOOD Glucose-88 UreaN-13 Creat-0.8 Na-141 
K-4.8 Cl-104 HCO3-28 AnGap-14
___ 01:38AM BLOOD Glucose-120* UreaN-14 Creat-0.8 Na-141 
K-3.9 Cl-107 HCO3-28 AnGap-10
___ 04:40AM BLOOD Calcium-9.3 Phos-2.8 Mg-2.2
___ 01:38AM BLOOD Calcium-8.9 Phos-2.9 Mg-2.1

IMAGING:
___ CT NECK: No acute fracture or change in alignment.  
Moderate cervical spondylosis.

___ CT HEAD Chronic changes including age-related 
involution and sequela of prior infarct. No acute intracranial 
process. 

___ ECG:
Sinus rhythm. Baseline artifact. Non-specific diffuse T wave 
flattening. 
No previous tracing available for comparison.  

 
Brief Hospital Course:
Ms. ___ is an ___ yo F with atrial fibrilation and severe 
dementia admitted to the Acute Care Trauma Surgery Service on 
___ after a fall from standing in her assisted living 
facility. She initially presented to an outside hospital where 
she was found to have a T11 compression fracture with 
retropulsion, left rib fractures, and a small left hemothorax. 
She had a CT scan of her head and neck that were negative for 
acute injury. She was admitted to the surgical floor for pain 
control and further monitoring.

She was seen and evaluated by the neurosurgery team who 
determined her injuries to be non-operative and recommended a 
TLSO when out of bed. She remained at her baseline level of 
confusion. Pain was managed with oral Tylenol and tramadol. She 
remained afebrile and hemodynamically stable. Of note the 
patient has known atrial fibrillation and is not on any systemic 
anticoagulation related to a fall in ___ where she sustained an 
intracerebral hemorrhage. On HD2 she had 6 beats of asymptomatic 
ventricular tachycardia. An EKG was obtained which was 
consistent with her baseline. She tolerated a regular diet. She 
had a foley catheter placed for urine output monitoring and made 
adequate urine. During this hospitalization, the patient 
ambulated early and frequently, was adherent with respiratory 
toilet and incentive spirometry, and actively participated in 
the plan of care. The patient received subcutaneous heparin and 
venodyne boots were used during this stay. She was seen and 
evaluated by physical therapy who recommended discharge to an 
acute care rehab facility. 

On HD3 she was hemodynamically stable and discharged to rehab. 
Follow up appointments were scheduled. Her foley catheter should 
be removed at the discretion of the medical staff at rehab. 

 
Medications on Admission:
ASA 81mg daily 
Vitamin D3 1,000 unit capsule  
amlodipine 2.5 mg daily 
BenGay Ultra Strength 4 %-30 %-10 % topical cream twice daily
docusate sodium 100 mg daily
levothyroxine 50 mcg daily
Tylenol ___ mg daily 
simvastatin 20 mg daily  

 
Discharge Medications:
1.  Acetaminophen 650 mg PO TID  
2.  Docusate Sodium 100 mg PO BID  
3.  TraMADol 25 mg PO Q4H:PRN pain 
RX *tramadol 50 mg 0.5 (One half) tablet(s) by mouth every four 
(4) hours Disp #*10 Tablet Refills:*0 
4.  amLODIPine 2.5 mg PO DAILY  
5.  Aspirin 81 mg PO DAILY  
6.  Levothyroxine Sodium 50 mcg PO DAILY  
7.  Simvastatin 20 mg PO QPM  

 
Discharge Disposition:
Extended Care
 
Facility:
___
 
Discharge Diagnosis:
Left rib fractures ___
T11 Compression fracture
Left small hemothorax

 
Discharge Condition:
Mental Status: Confused - always.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - requires assistance or aid (walker 
or cane).

 
Discharge Instructions:
Dear Ms. ___,

You were admitted to ___ were 
you were evaluated and treated for a fracture in your back 
(thoracic 11 vertebral compression fracture) left rib fractures, 
and a small bleed in your lung(hemothorax). You are recovering 
well and are now ready for discharge. Please follow the 
instructions below to continue your recovery:

Your injury caused a thoracic ___ vertebrae and left ___ 
rib fractures which can cause severe pain and subsequently cause 
you to take shallow breaths because of the pain.
 
* You should take your pain medication as directed to stay ahead 
of the pain otherwise you won't be able to take deep breaths. If 
the pain medication is too sedating take half the dose and 
notify your physician.
 
* Pneumonia is a complication of rib fractures.  In order to 
decrease your risk you must use your incentive spirometer 4 
times every hour while awake.  This will help expand the small 
airways in your lungs and assist in coughing up secretions that 
pool in the lungs.
 
* You will be more comfortable if you use a cough pillow to hold 
against your chest and guard your rib cage while coughing and 
deep breathing.
 
* Symptomatic relief with ice packs or heating pads for short 
periods may ease the pain.
 
* Narcotic pain medication can cause constipation therefore you 
should take a stool softener twice daily and increase your fluid 
and fiber intake if possible.
 
* Do NOT smoke
 
* If your doctor allows, non-steroidal ___ drugs 
are very effective in controlling pain ( ie, Ibuprofen, Motrin, 
Advil, Aleve, Naprosyn) but they have their own set of side 
effects so make sure your doctor approves.
 
* Return to the Emergency Room right away for any acute 
shortness of breath, increased pain or crackling sensation 
around your ribs (crepitus).

The neurosurgery specialist examined you and found no indication 
for surgery and recommended the following:

- Thoracolumbosacral orthosis brace when out of bed. You may put 
it on while sitting at the edge of the bed.
- Follow up in 4 weeks at the ___ at ___ 
___ with Dr. ___, with AP/Lateral 
X-rays. An appointment has been requested for you. If you need 
to change the appointment time or do not hear from the office in 
2 business days you can call ___. 

 
Followup Instructions:
___